US05843973
Trans-4-azidomethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane
In 50 ml of dry dimethylformamide was suspended 2.0 g of trans-4-(1-t-butyldimethylsilyloxyethyl)cyclohexylmethylmethanesulfonate and 1.85 g of sodium azide, and the resulting mixture was stirred at 110° C. for 45 minutes. To the reaction mixture were added 200 ml of ethyl acetate, and the mixture was washed three times with an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 1.7 g of the desired compound as a pale yellow oil. This oil was used for the subsequentareaction without purification.

reactant | trans-4-(1-t-butyldimethylsilyloxyethyl)cyclohexylmethylmethanesulfonate | 2.0 g | [Si](C)(C)(C(C)(C)C)OC(C)[C@@H]1CC[C@H](CC1)CCS(=O)(=O)[O-]
reactant | sodium azide | 1.85 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Trans-4-azidomethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane | 1.7 g | N(=[N+]=[N-])C[C@@H]1CC[C@H](CC1)C(C)O[Si](C)(C)C(C)(C)C | C15H31N3OSi
